US08536179B2
To a stirred solution of methyl 1-isopropyl-3-methyl-6-(1H-tetrazol-5-yl)-1H-indole-4-carboxylate (0.27 g, 0.902 mmol) in MeOH (15 mL) and tetrahydrofuran (5 mL) was added 1N NaOH (5 mL, 5.00 mmol). The reaction was heated to 60° C. and stirred for 48 hr. LCMS showed that the reaction was complete. The reaction was concentrated to near dryness under vacuum, acidified with 1 N HCl (5 mL), triturated, filtered and washed with a small volume of water, and dried under vacuum to give the product 1-isopropyl-3-methyl-6-(1H-tetrazol-5-yl)-1H-indole-4-carboxylic acid (0.26 g, 0.911 mmol, 101% yield) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 13.04 (br. s., 1H), 8.36 (d, J=1.5 Hz, 1H), 8.13 (d, J=1.3 Hz, 1H), 7.65 (s, 1H), 4.85 (quin, J=6.6 Hz, 1H), 2.36 (s, 3H), 1.50 (d, J=6.6 Hz, 6H). MS (ES)+m/e 286.1 [M+H]+.

reactant | methyl 1-isopropyl-3-methyl-6-(1H-tetrazol-5-yl)-1H-indole-4-carboxylate | 0.902 mmol, 0.27 g | C(C)(C)N1C=C(C=2C(=CC(=CC12)C1=NN=NN1)C(=O)OC)C | C15H17N5O2
reactant | NaOH | 5.00 mmol, 1N, 5 mL | [OH-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-isopropyl-3-methyl-6-(1H-tetrazol-5-yl)-1H-indole-4-carboxylic acid | 0.911 mmol, 0.26 g, 101% yield | C(C)(C)N1C=C(C=2C(=CC(=CC12)C1=NN=NN1)C(=O)O)C | C14H15N5O2
